US08168802B2
Under a nitrogen atmosphere, aminomalononitrile p-toluenesulfonate (55.0 g, 0.217 mol) and anhydrous THF (1.1 L) were combined, and triethylamine (23.1 g, 0.228 mol) was added with stirring to the resulting suspension. After the suspension was stirred for 25 minutes; the reaction became homogeneous, and trimethyl orthobutyrate (36.5 mL, 0.228 mol) was added. The solution was heated at reflux for 75 minutes. An analysis by TLC indicated the presence of starting material, and additional trimethyl orthobutyrate (3.5 mL) was added. The solution was heated at reflux for another 15 minutes and allowed to cool to 25° C. Triethylamine (32 mL, 0.29 mol) and tert-butyl 2-(2-aminoethoxy)ethylcarbamate (48.8 g, 0.239 mol) were added, and the reaction was stirred for 18 hours at room temperature. The volatiles were removed under reduced pressure, and the residue was partitioned between dichloromethane (1 L) and saturated aqueous sodium bicarbonate (250 mL). The organic layer was separated and washed sequentially with saturated aqueous sodium carbonate (250 mL) and brine (250 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was combined with material from another run and purified by column chromatography on silica gel (eluting with 20% ethyl acetate in hexane) to provide 67 g (77%) of tert-butyl 2-[2-(5-amino-4-cyano-2-propyl-1H-imidazol-1-yl)ethoxy]ethylcarbamate as an orange semi-solid.

reactant | aminomalononitrile p-toluenesulfonate | 0.217 mol, 55.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC(C#N)C#N
reactant | triethylamine | 0.228 mol, 23.1 g | C(C)N(CC)CC | C6H15N
reactant | trimethyl orthobutyrate | 0.228 mol, 36.5 mL | C(CCC)(OC)(OC)OC | C7H16O3
reactant | trimethyl orthobutyrate | 3.5 mL | C(CCC)(OC)(OC)OC | C7H16O3
reactant | Triethylamine | 0.29 mol, 32 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 2-(2-aminoethoxy)ethylcarbamate | 0.239 mol, 48.8 g | NCCOCCNC(OC(C)(C)C)=O | C9H20N2O3
solvent | THF | 1.1 L | C1CCOC1 | C4H8O
product | tert-butyl 2-[2-(5-amino-4-cyano-2-propyl-1H-imidazol-1-yl)ethoxy]ethylcarbamate | 67 g, 77% | NC1=C(N=C(N1CCOCCNC(OC(C)(C)C)=O)CCC)C#N | C16H27N5O3
